US07943605B2
1-benzylpyrrolidin-3-one a43 (8.75 g, 50 mmol, 1 eq) is dissolved in toluene (100 ml). Methyl (triphenylphosphoranylidene)acetate a44 (18.4 g, 55 mmol, 1.1 eq) is added and the mixture is refluxed for 60 h. The cold suspension is then filtered and the filtrate is concentrated to dryness. The crude product is purified by chromatography over silicagel (ethyl acetate/hexane 10/90) to afford 7.2 g of pure methyl (1-benzylpyrrolidin-3-ylidene)acetate a45.

reactant | 1-benzylpyrrolidin-3-one | C(C1=CC=CC=C1)N1CC(CC1)=O | C11H13NO
reactant | Methyl (triphenylphosphoranylidene)acetate | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | methyl (1-benzylpyrrolidin-3-ylidene)acetate | 7.2 g, Yield: 61% | C(C1=CC=CC=C1)N1CC(CC1)=CC(=O)OC | C14H17NO2
